US06177440B1
A solution of the 9-[(3-fluorophenyl)methyl]-2-methyl-4-hydroxy-5-carbomethoxy carbazole (0.33 g, 0.91 mM) in 14 ml THF and 54 mL concentrated aqueous ammonium hydroxide was sonicated for 6.5 h at 30-40° C. The precipitated solid was filtered, washed with water, and triturated with 35 ml Et2O to afford 182 mg (57%) of 9-[(3-fluorophenyl)methyl]-2-methyl-4-hydroxy-5-carbamoyl carbazole. 1H NMR (DMSO-d6) δ 10.5 (s, 1H), 8.8 (bs, 1H), 8.4 (bs, 1H), 7.75 (m, 1H), 7.4 (m, 2H), 7.25 (m, 1H), 7.05 (m, 1H), 6.9 (m, 2H), 6.85 (d, J=8 Hz, 1H), 6.45 (s, 1H), 5.65 (s, 2H), 2.4 (s, 3H). MS (ES) m/e 332, 349.

reactant | 9-[(3-fluorophenyl)methyl]-2-methyl-4-hydroxy-5-carbomethoxy carbazole | 0.91 mM, 0.33 g | FC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C)O)C(=O)OC | C22H18FNO3
reactant | ammonium hydroxide | 54 mL | [OH-].[NH4+]
solvent | THF | 14 ml | C1CCOC1 | C4H8O
product | 9-[(3-fluorophenyl)methyl]-2-methyl-4-hydroxy-5-carbamoyl carbazole | 182 mg, 57% | FC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C)O)C(N)=O | C21H17FN2O2
